US07320995B2
3-iodo-2-phenylimidazo[1,2-a]pyridine
Treat a solution of 2-phenylimidazo[1,2-a]pyridine (50 mg, 0.257 mmol) in acetonitrile (1.25 mL) with N-iodosuccinimide (NIS) (69 mg, 0.309 mmol) at room temperature for 5 hours. Dilute the mixture with ether (10 mL), wash with a saturated aqueous solution of NaHCO3 (15 mL) and NaHSO3 (40%, 15 mL), dry (Na2SO4) and concentrate in vacuo. A yellow solid is obtained, 80 mg, 97% yield. MS(ES+): m/z=321.0 (M+H)+

reactant | 2-phenylimidazo[1,2-a]pyridine | 0.257 mmol, 50 mg | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2)C1 | C13H10N2
reactant | N-iodosuccinimide | 0.309 mmol, 69 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 1.25 mL | C(C)#N | C2H3N
solvent | ether | 10 mL | CCOCC | C4H10O
product | 3-iodo-2-phenylimidazo[1,2-a]pyridine | 97% yield | IC1=C(N=C2N1C=CC=C2)C2=CC=CC=C2 | C13H9IN2
